US07514450B2
5-(4-Nitrophenyl)-2-furoyl chloride
Was prepared by stirring a mixture of 5-(4-nitrophenyl)-2-furoic acid (1.0 g, 4.3 mmol) and thionyl chloride (10 ml) at reflux for 2 hours. The mixture was evaporated and co-evaporated with anhydrous toluene. The acid chloride was used without further purification.

reactant | 5-(4-nitrophenyl)-2-furoic acid | 4.3 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7NO5
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(4-Nitrophenyl)-2-furoyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)Cl | C11H6ClNO4
